data/oMe_Silver.jsonl
{"reaction_id": "NR-032_1-c1ccc(OC)cc1_2-c1ccc2ccccc2c1","name": "Büchner-Curtius-Schlotterbeck Reaction","level": "medium","reactants_smiles": ["C(=O)(c1ccc(OC)cc1)(c1ccc2ccccc2c1)","C=[N+]=[N-]"],"products_smiles": ["C(=O)(c1ccc2ccccc2c1)(Cc1ccc(OC)cc1)"],"conditions": "","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(C[N+]#N)(c1ccc(OC)cc1)(c1ccc2ccccc2c1)","step_weight": 0,"rationale": "The azide nitrogen lone pair attacks the electrophilic carbonyl carbon, whose partial positive charge is enhanced by the electron-withdrawing oxygen, forming a tetrahedral intermediate stabilized by resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(c1ccc2ccccc2c1)(Cc1ccc(OC)cc1)","step_weight": 0,"rationale": "Thermal conditions promote a 1,2-shift as nitrogen gas leaves, driven by the stability of the carbonyl and relief of electron deficiency at the migrating carbon."}],"description": "The reaction proceeds via nucleophilic addition of an organoazide to the carbonyl, forming a tetrahedral intermediate. Under the conditions, a 1,2-shift occurs, driven by nitrogen extrusion and formation of a more stable carbonyl product with rearranged substituents."}
{"reaction_id": "NR-220_1-C","level": "hard","name": "Piancatelli Rearrangement","reactants_smiles": ["C(O)(c1occc1)(C)"],"products_smiles": ["C1C(O)C(C)C(=O)C=1"],"conditions": "H+","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH2+])(c1occc1)(C)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting it into water, facilitated by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[CH+](c1occc1)C","step_weight": 0,"rationale": "Heterolytic cleavage releases neutral water, generating a resonance-stabilized carbocation adjacent to the electron-rich furan ring."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC([OH2+])OC1=CC","step_weight": 0,"rationale": "The furan π-system attacks the carbocation, forming a new C–C bond; aromaticity loss is offset by carbocation stabilization."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=CC([OH])[OH+]C1=CC","step_weight": 0,"rationale": "Proton transfer adjusts the charge distribution, preparing the intermediate for elimination by generating a better leaving group."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[OH+])C=CC([OH])=CC","step_weight": 0,"rationale": "Elimination of a protonated hydroxyl group forms a conjugated enone system, driven by the stability of the α,β-unsaturated carbonyl."},{"step": 6,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1C(O)C(C)C(=O)C=1","step_weight": 0,"rationale": "Intramolecular nucleophilic attack by the hydroxyl group closes the cyclopentane ring, favored by proximity and relief of carbocation instability."}],"description": "Under acidic conditions, the Piancatelli rearrangement proceeds via protonation-induced ring opening of the furan, generating a stabilized carbocation. Subsequent nucleophilic additions and proton transfers reorganize the skeleton, leading to cyclopentenone formation with hydroxyl substitution adjacent to the carbonyl."}
